US07772253B2
[1-(3,5-Diethoxy-4-pyrrol-1-yl-benzyl)piperidin-4-yl]-5-methyl-nicotinamide
The title compound (10 mg, 22%) was prepared analogously to example 30 from 5-methyl-N-(piperidin-4-yl)-nicotinamide and 3,5-diethoxy-4-pyrrol-1-yl-benzaldehyde. MS: 463.5 (MH+)

reactant | 5-methyl-N-(piperidin-4-yl)-nicotinamide | CC=1C=NC=C(C(=O)NC2CCNCC2)C1 | C12H17N3O
reactant | 3,5-diethoxy-4-pyrrol-1-yl-benzaldehyde | C(C)OC=1C=C(C=O)C=C(C1N1C=CC=C1)OCC | C15H17NO3
product | [1-(3,5-Diethoxy-4-pyrrol-1-yl-benzyl)piperidin-4-yl]-5-methyl-nicotinamide | 10 mg, 22% | C(C)OC=1C=C(CN2CCC(CC2)C2=C(C(=O)N)C=C(C=N2)C)C=C(C1N1C=CC=C1)OCC | C27H34N4O3
